US07842688B2
d) 1-Ethyl-4-methyl-3-(2-trimethylsilanylethoxymethyl)-1,3-dihydrobenzimidazol-2-one
A solution of 3.500 g of 1-ethyl-4-methyl-1,3-dihydrobenzimidazol-2-one in 40 ml of anhydrous N,N-dimethylformamide is admixed at 0° C. with 0.874 g of sodium hydride dispersion (60%). The reaction mixture is stirred at 0° C. over a further 30 minutes and 4.06 ml of 2-(trimethylsilanyl)ethoxymethyl chloride are added dropwise. The reaction mixture is stirred at 20° C. over 14 hours, poured onto 150 ml of saturated aqueous sodium hydrogencarbonate solution and extracted with tert-butyl methyl ether (2×200 ml). The combined organic phases are dried over sodium sulphate and concentrated by evaporation. The title compound is obtained as a brown oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.20 (1:3 EtOAc-heptane); Rt=5.62.

reactant | 1-ethyl-4-methyl-1,3-dihydrobenzimidazol-2-one | 3.500 g | C(C)N1C(NC2=C1C=CC=C2C)=O | C10H12N2O
reactant | sodium hydride | 0.874 g | [H-].[Na+]
reactant | 2-(trimethylsilanyl)ethoxymethyl chloride | 4.06 ml | C[Si](CCOCCl)(C)C | C6H15ClOSi
reactant | sodium hydrogencarbonate | 150 ml | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 1-Ethyl-4-methyl-3-(2-trimethylsilanylethoxymethyl)-1,3-dihydrobenzimidazol-2-one | C(C)N1C(N(C2=C1C=CC=C2C)COCC[Si](C)(C)C)=O | C16H26N2O2Si
